US03985765
A mixture of 50 g (0.28 moles) of diphenylacetylene and 33 g (0.28 moles) of trimethylsilylazide was heated at 150°C for several days. The cooled reaction mixture was extracted with hot dilute NaOH. This was washed with toluene while still warm, cooled, and acidified. The precipitate was recrystallized from toluene to give 17 g of 4,5-diphenyl-1,2,3(1H)-triazole, m.p. 131°C.

reactant | diphenylacetylene | 0.28 moles, 50 g | C1(=CC=CC=C1)C#CC1=CC=CC=C1 | C14H10
reactant | trimethylsilylazide | 0.28 moles, 33 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 4,5-diphenyl-1,2,3(1H)-triazole | 17 g | C1(=CC=CC=C1)C=1N=NNC1C1=CC=CC=C1 | C14H11N3
